US05922717
(4) Isobutyl 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetate trihydrochloride
Prepared from 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetic acid dihydrochloride and isobutanol.

reactant | 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetic acid dihydrochloride | Cl.Cl.N1CCC(CC1)N1CCN(CC1)C(=O)NC1CCN(CC1)CC(=O)O
reactant | isobutanol | C(C(C)C)O | C4H10O
product | Isobutyl 4-[[4-(4-piperidinyl)-piperazin-1-yl]carbonylamino]piperidinoacetate trihydrochloride | Cl.Cl.Cl.N1CCC(CC1)N1CCN(CC1)C(=O)NC1CCN(CC1)CC(=O)OCC(C)C | InChI=1S/C21H39N5O3.3ClH/c1-17(2)16-29-20(27)15-24-9-5-18(6-10-24)23-21(28)26-13-11-25(12-14-26)19-3-7-22-8-4-19;;;/h17-19,22H,3-16H2,1-2H3,(H,23,28);3*1H
